US07842696B2
10% Pd/c (20 mg) was added to a stirred solution of 5-(2-Benzyloxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (103 mg, 0.17 mmol))(prepared by the method as described above) in MeOH (50 mL) and stirred under hydrogen atmosphere. The reaction mixture was then stirred for 6 hrs. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated under reduced pressure to afford 35.8 mg (41.3% yield) of 5-(2-Hydroxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 93.92%. 1H NMR (DMSO): δ 13.1 (s, 1H), 10.3 (s, 1H), 8.2 (s, 1H), 7.74 (m, 2H), 7.62 (m, 2H), 7.52 (m, 1H), 7.16 (m, 1H), 7.04 (s, 1H), 6.96 (m, 1H), 6.86 (m, 1H), 4.1 (m, 2H), 3.55 (m, 4H), 3.4 (m, 2H), 3.2 (m, 2H).

reactant | 5-(2-Benzyloxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 0.17 mmol, 103 mg | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)OCC1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C31H28F3N5O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 5-(2-Hydroxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 35.8 mg, 41.3% yield | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H22F3N5O4
